US08865911B2
3-Bromo-5-chloro-2-methylpyridine
2,3-Dibromo-5-chloropyridine (1.3 g, 4.70 mmol), methylboronic acid (0.30 g, 5.01 mmol), bis(triphenylphosphine)palladium(II) chloride (0.50 g, 0.70 mmol) and dioxane (10 mL) were added. K2CO3 (2 M aq. solution, 7.0 mL, 14.0 mmol) was added and the reaction was put under N2 (g) atmosphere. The reaction was heated to reflux for 5 h. The reaction was stirred at 50° C. overnight and then heated to reflux for additionally 1 h. Methylboronic acid (0.14 g, 2.35 mmol) was added and the reaction was refluxed for 4 h and the allowed to cool down to r.t. The mixture was filtered through a silica plug. EtOAc and water were added and the phases were separated. The organic phase was washed two more times with water. The organic phase was dried with MgSO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (12 g SiO2, O-20% MeOH containing 0.1 M NH3 in DCM). The fractions containing pure product were pooled and concentrated, yielding the title compound (123 mg, 13% yield): 1H NMR (DMSO-d6) δ ppm 2.56 (s, 3 H), 8.29 (d, 1 H), 8.52 (d, 1 H); MS (CI) m/z 206 [M+H]+.

reactant | 2,3-Dibromo-5-chloropyridine | 4.70 mmol, 1.3 g | BrC1=NC=C(C=C1Br)Cl | C5H2Br2ClN
reactant | methylboronic acid | 5.01 mmol, 0.30 g | CB(O)O | CH5BO2
reactant | K2CO3 | 14.0 mmol, 2 M, 7.0 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | Methylboronic acid | 2.35 mmol, 0.14 g | CB(O)O | CH5BO2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.70 mmol, 0.50 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-Bromo-5-chloro-2-methylpyridine | 123 mg, 13% yield | BrC=1C(=NC=C(C1)Cl)C | C6H5BrClN
